US06576656B1
(1) 5-iodo-2-Methyl-3-nitrobenzotrifluoride
To H2SO4 (110 mL, 96%) stirring under a nitrogen atmosphere at 0-5° C. was added N-iodosuccinimide (41.13 g, 1.5 eq). The resulting black/dark red mixture was stirred at 0-5° C. for 40 minutes. To this was added dropwise commercially available 2-methyl-3-nitrobenzotrifluoride (25.0 g, 121.9 mmol) in H2SO4 (75 mL). Once the addition was completed, ca. 1 hour, the mixture was stirred at 5-10° C. for 5 hours. The resulting mixture was poured into ice (600 mL) and extracted with EtOAc (400 mL, 3×200 mL). The extracts were combined, washed with saturated aqueous Na2SO3 (500 mL) and H2O (400 mL). The organic phase was then dried (anhydrous MgSO4). After filtration the solvent was removed in vacuo to give a dark oil. Purification was carried out by column chromatography (silica gel, eluting hexane) to give the title compound as a light yellow/green oil which solidified on standing (34.81 g, 86%).

reactant | N-iodosuccinimide | 41.13 g, 1.5 eq | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-methyl-3-nitrobenzotrifluoride | 121.9 mmol, 25.0 g | CC1=C(C=CC=C1[N+](=O)[O-])C(F)(F)F | C8H6F3NO2
solvent | H2SO4 | 75 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 110 mL | OS(=O)(=O)O | H2O4S
product | 5-iodo-2-Methyl-3-nitrobenzotrifluoride | IC=1C=C(C(=C(C1)C(F)(F)F)C)[N+](=O)[O-] | C8H5F3INO2
